US05604237
1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[(4-methoxy-3-nitrophenyl)acetyl]isoquinoline
A mixture of 4-methoxy-3-nitrophenylacetic acid (1.2 g) and 1-hydroxybenzotriazole (0.95 g) in DMF (30 ml) was stirred at room temperature for 10 min. 1,2,3,4-Tetrahydro-6,7-dimethoxy-isoquinoline (1.1 g) in DMF (20 ml) was then added, followed by dicyclohexylcarbodiimide (1.2 g) and the mixture was stirred at room temperature for 6 h and then filtered. The filtrate was concentrated in vacuo, treated with dilute sodium hydroxyde and extracted with ethyl acetate. The dried organic extract was evaporated to give the title compound (1.6 g) as an oil which crystallised from ethanol as a white solid, MP 175°. IR: Freq CO: 1650 cm-1.

reactant | 4-methoxy-3-nitrophenylacetic acid | 1.2 g | COC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C9H9NO5
reactant | 1-hydroxybenzotriazole | 0.95 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,2,3,4-Tetrahydro-6,7-dimethoxy-isoquinoline | 1.1 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | dicyclohexylcarbodiimide | 1.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[(4-methoxy-3-nitrophenyl)acetyl]isoquinoline | 1.6 g | COC=1C=C2CCN(CC2=CC1OC)C(CC1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C20H22N2O6
